US07351825B2
(1S,2R,3R)-1-amino-2-methyl-3-phenyl-cyclopropanecarboxylic acid t-butyl ester (step 5-4)
Under argon atmosphere, p-toluenesulfonic acid monohydrate (3.5 g, 18 mmol) was added to a solution of (1S,2R,3R)-1-t-butoxycarbonylamino-2-methyl-3-phenyl-cyclopropanecarboxylic acid t-butyl ester (3.2 g, 9.1 mmol) obtained in Preparation Example 5-2 in acetonitrile (30 mL) at 0° C., and the mixture was stirred at room temperature for 16 hours. The obtained solution was cooled to 0° C., and 1N aqueous sodium hydroxide solution (20 mL) was added. The aqueous layer was extracted twice with ethyl acetate (15 mL) and dried over magnesium sulfate. Then, the residue was filtrated and the solvent was evaporated to give a crude product of the title compound (1.8 g, yield 99%) as a crude product of a pale-yellow oil. The obtained product was used in the next step without purification.

reactant | p-toluenesulfonic acid monohydrate | 18 mmol, 3.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (1S,2R,3R)-1-t-butoxycarbonylamino-2-methyl-3-phenyl-cyclopropanecarboxylic acid t-butyl ester | 9.1 mmol, 3.2 g | C(C)(C)(C)OC(=O)[C@@]1([C@@H]([C@@H]1C1=CC=CC=C1)C)NC(=O)OC(C)(C)C | C20H29NO4
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | (1S,2R,3R)-1-amino-2-methyl-3-phenyl-cyclopropanecarboxylic acid t-butyl ester | 1.8 g, yield 99% | C(C)(C)(C)OC(=O)[C@@]1([C@@H]([C@@H]1C1=CC=CC=C1)C)N | C15H21NO2
